US07863444B2
Compounds 270 to 282 were synthesized using the following methods. Route 1 a) A mixture of the appropriate bromoarylsulphonamide (0.735 mmol), bispinacolatodiborane (0.225 g, 0.88 mmol), [1.1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) complex with dichloromethane (1:1) (2 mg, 0.002 mol) and potassium acetate (0.216 g, 2.205 mol) in N,N-dimethylformamide (5 mL) was heated at 100° C. under an atmosphere of nitrogen for 16 hours. The mixture was allowed to cool to ambient temperature and the solvent removed under reduced pressure. Dichloromethane (20 mL) was added to the residue and the resulting solid was removed by filtration through a pad of celite. The filtrate was concentrated to leave a yellow oil which was purified by flash chromatography on silica gel to yield the sulphonamido aryl borate. b) A mixture of 4-chloro-7-cyclopentyl-5-iodo-7H-pyrrolo[2,3-d]pyrimidine (0.35 g, 1.0 mmol), the sulphonamido aryl borate. (1.5 mmol; from 1(a) above), tetrakis(triphenylphosphine)palladium (0.07 g, 0.06 mmol) and sodium carbonate (0.265 g, 2.5 mmol) was heated in a mixture of ethylene glycol dimethyl ether (10 mL) and water (5 mL) at 80° C. for 18 hours under an atmosphere of nitrogen. The mixture was allowed to cool to ambient temperature and solvents were removed under reduced pressure. The residue was partitioned between water (15 mL) and ethyl acetate (25 ml), the organic layer separated and the aqueous layer further extracted with ethyl acetate (2×25 ml). The combined organic extracts were washed with water (3×20 ml) then dried over magnesium sulfate, filtered and the filtrate concentrated to an oily residue under reduced pressure which was purified by flash column chromatography on silica gel to afford the corresponding sulfonamidoaryl 4-chloro-pyrrolo[2,3-d]pyrimidine. c) The 4-chloro-pyrrolo[2,3-d]pyrimidine (typically 10-20 mmol; from 1(b) above) was mixed with dioxane (100 ml) and concentrated ammonium hydroxide (100 ml) in a pressure vessel. The mixture was heated to 120° C. overnight. Solvent was removed and the residue was purified by RP-HPLC to give the desired final 4-amino-pyrrolo[2,3-d]pyrimidine product. Route 2 a) A mixture of the appropriate bromoaniline (2.4 mmol), bispinacolatodiborane (0.735 g, 2,88 mmol), [1.1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) complex with dichloromethane (1:1) (59 mg, 0.072 mol) and potassium acetate (0.707 g, 7.205 mol) in N,N-dimethylformamide (15 mL) was heated at 100° C. under an atmosphere of nitrogen for 16 hours. The mixture was allowed to cool to ambient temperature and the solvent removed under reduced pressure. Toluene (20 mL) was added and the mixture washed with water (2×15 ml). The organic phases were dried over MgSO4(s), concentrated in vacuo, and purified by flash chromatography on silica gel to yield the anilino borate. b) A mixture the anilino borate. (1.01 mmol; from 2(a) above), 4-chloro-7-cyclopentyl-5-iodo-7H-pyrrolo[2,3-d]pyrimidine (0.24 g, 0.67 mmol), tetrakis(triphenylphosphine)palladium (0.04 g, 0.033 mmol) and sodium carbonate (0.215 g, 2.03 mmol) was heated in a mixture of ethylene glycol dimethyl ether (10 mL) and water (5 mL) at 80° C. for 18 hours under an atmosphere of nitrogen. The mixture was allowed to cool to ambient temperature and solvents were removed under reduced pressure. The residue was partitioned between water (15 mL) and ethyl acetate (25 ml), the organic layer separated and the aqueous layer further extracted with ethyl acetate (2×25 ml). The combined organic extracts were washed with water (3×20 ml) then dried over magnesium sulfate, filtered. The filtrate concentrated to an oily residue under reduced pressure which was purified by flash column chromatography on silica gel to give the desired 4-chloro-7-cyclopentyl-5-(4-aminophenyl)-7H-pyrrolo[2,3-d]pyrimidine. c) A mixture of the 4-chloro-7-cyclopentyl-5-(4-aminophenyl)-7H-pyrrolo[2,3-d]pyrimidine (0.201 mmol; from 2(b) above), the arylsulphonyl chloride (0.402 mmol) and pyridine (1.005 mmol) in methylene chloride was stirred at room temperature for 16 h. The solvents were removed by filtration and the sulfonamido 4-chloro-pyrrolopyrimidine product was purified by RP-HPLC. d) The sulfonamido 4-chloro-pyrrolo[2,3-d]pyrimidine (typically 10-20 mmol; from 2(c) above) was mixed with dioxane (100 ml) and concentrated ammonium hydroxide (100 ml) in a pressure vessel. The mixture was heated to 120° C. overnight. Solvent was removed and the residue was purified by RP-HPLC to give the desired final sulfonamido 4-amino-pyrrolo[2,3-d]pyrimidine product. Analytical RP-HPLC RT listed in the table were obtained on a Hypersil HyPurity Elite C18 column ((5 um, 200 A) 250×4.6 mm) using a linear gradient of 25-100% acetonitrile/0.1 M ammonium acetate over 25 min at 1 ml/min. Note that appropriate protecting group manipulation may be required when introducing reactive substituents.

reactant | 4-chloro-pyrrolo[2,3-d]pyrimidine | ClC1=C2C(NC=N1)=NC=C2 | C6H4ClN3
reactant | ammonium hydroxide | 100 ml | [OH-].[NH4+]
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 4-amino-pyrrolo[2,3-d]pyrimidine | NC1=C2C(NC=N1)=NC=C2 | C6H6N4
